US07067694B2
4-{[(4-carboxybutyl)(2-{2-[(4-cyclohexylbenzyl)oxy]-4-fluorophenyl}ethyl)amino]methyl}benzoic acid hydrochloride
0.5 ml (2 mmol) of a 4-molar solution of HCl in dioxane is added to a solution of 220 mg (0.43 mmol) of 4-{[(4-carboxybutyl)(2-{2-[(4-cyclohexylbenzyl)oxy]-4-fluorophenyl}ethyl)amino]methyl}benzoic acid from Ex. 1 in 0.2 ml of dioxane, and the mixture is stirred at 60° C. for 1 h. The mixture is then concentrated by evaporation and the resulting colorless oil is triturated repeatedly with diethyl ether. The resulting crystals are filtered and dried.

reactant | HCl | Cl | ClH
reactant | 4-{[(4-carboxybutyl)(2-{2-[(4-cyclohexylbenzyl)oxy]-4-fluorophenyl}ethyl)amino]methyl}benzoic acid | 0.43 mmol, 220 mg | C(=O)(O)CCCCN(CCC1=C(C=C(C=C1)F)OCC1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)O)C=C1 | C34H40FNO5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 4-{[(4-carboxybutyl)(2-{2-[(4-cyclohexylbenzyl)oxy]-4-fluorophenyl}ethyl)amino]methyl}benzoic acid hydrochloride | Cl.C(=O)(O)CCCCN(CCC1=C(C=C(C=C1)F)OCC1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)O)C=C1 | InChI=1S/C34H40FNO5.ClH/c35-31-18-17-29(32(22-31)41-24-26-11-13-28(14-12-26)27-6-2-1-3-7-27)19-21-36(20-5-4-8-33(37)38)23-25-9-15-30(16-10-25)34(39)40;/h9-18,22,27H,1-8,19-21,23-24H2,(H,37,38)(H,39,40);1H
